US04920195
Preparation of 4iodo-2,6-bis(N,N-bis(t-butoxycarbonylmethyl)aminomethyl)pyridine (1)
To a solution of 4-iodo-2,6-bisbromomethylpyridine (0.59 g, 1.5 mmol) and di-t-butyl iminodiacetate (0.74 g, 3.0 mmol) in 40 mL of dry acetonitrile was added 1.59 g of sodium carbonate (15 mmol) and the mixture was stirred for 24 h at room temperature. Filtration and evaporation of the filtrate left a yellow oil. The oil was taken into 20 mL of chloroform, washed twice with 10 mL of water and dried with Na2SO4. Evaporation gave a yellowish oil which was purified by chromatographing on silica with toluene-ethanol (10:1).

reactant | 4-iodo-2,6-bisbromomethylpyridine | 1.5 mmol, 0.59 g | IC1=CC(=NC(=C1)CBr)CBr | C7H6Br2IN
reactant | di-t-butyl iminodiacetate | 3.0 mmol, 0.74 g | N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C12H23NO4
reactant | sodium carbonate | 15 mmol, 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4iodo-2,6-bis(N,N-bis(t-butoxycarbonylmethyl)aminomethyl)pyridine | IC1=CC(=NC(=C1)CN(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CN(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C31H50IN3O8
